US07384934B2
2-(5-Fluoro-2-nitro-phenylamino)-5-trifluoromethyl-benzonitrile
Combine 2,4-difluoro-1-nitro-benzene (5.36 g, 33.69 mmol), 2-amino-5-trifluoromethyl-benzonitrile (5.701 g, 30.63 mmol) and lithium hydroxide monohydrate (2.57 g, 61.25 mmol) in methyl sulfoxide (DMSO, 70 ml). Heat the resulting mixture to 55° C. for 16 hours. Cool the reaction mixture to ambient temperature, then pour into approximately 250 ml of ice water and stir for one hour. Filter the resulting mixture, wash with a large amount of water and collect the precipitate to obtain 9.53 g of the title compound (29.30 mmol, 96% yield) as a yellow amorphous solid: Mass Spectrum (m/e): 324(M−1).

reactant | 2,4-difluoro-1-nitro-benzene | 33.69 mmol, 5.36 g | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | 2-amino-5-trifluoromethyl-benzonitrile | 30.63 mmol, 5.701 g | NC1=C(C#N)C=C(C=C1)C(F)(F)F | C8H5F3N2
reactant | lithium hydroxide monohydrate | 61.25 mmol, 2.57 g | O.[OH-].[Li+]
solvent | methyl sulfoxide | 70 ml | CS(=O)C | C2H6OS
product | 2-(5-Fluoro-2-nitro-phenylamino)-5-trifluoromethyl-benzonitrile | 29.30 mmol, 9.53 g, 96% yield | FC=1C=CC(=C(C1)NC1=C(C#N)C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C14H7F4N3O2
